US08895582B2
To a solution of (S)-5-(tert-butyldimethylsilyloxy)-4-(3-(2-chloro-3-fluorobenzyl)-1-methylureido)pentanoic acid (4.46 g, 10 mmol, 1.0 equiv.) in DMF (50 mL), was added HBTU (5.69 g, 15 mmol, 1.5 equiv.), 1-N-Boc-piperazine (2.79 g, 15 mmol, 1.5 equiv.) and DIEA (5.21 mL, 30 mmol, 3.0 equiv.) in sequence. The reaction was completed in 15 min. Ether (100 mL) and brine (100 mL) were added to the reaction mixture. The organic layer was dried and concentrated. The residue was purified on silica gel column using a mixture of hexane and EtOAc to give (S)-tert-butyl 4-(5-(tert-butyldimethylsilyloxy)-4-(3-(2-chloro-3-fluorobenzyl)-1-methylureido)pentanoyl)piperazine-1-carboxylate (4.2 g, 68%). LRMS (M+H+) m/z 615.2.

reactant | (S)-5-(tert-butyldimethylsilyloxy)-4-(3-(2-chloro-3-fluorobenzyl)-1-methylureido)pentanoic acid | 10 mmol, 4.46 g, 1.0 equiv. | [Si](C)(C)(C(C)(C)C)OC[C@H](CCC(=O)O)N(C(=O)NCC1=C(C(=CC=C1)F)Cl)C | C20H32ClFN2O4Si
reactant | HBTU | 15 mmol, 5.69 g, 1.5 equiv. | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 1-N-Boc-piperazine | 15 mmol, 2.79 g, 1.5 equiv. | C(=O)(OC(C)(C)C)N1CCNCC1 | C9H18N2O2
reactant | DIEA | 30 mmol, 5.21 mL, 3.0 equiv. | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
solvent | brine | 100 mL | [Cl-].[Na+].O
solvent | Ether | 100 mL | CCOCC | C4H10O
product | (S)-tert-butyl 4-(5-(tert-butyldimethylsilyloxy)-4-(3-(2-chloro-3-fluorobenzyl)-1-methylureido)pentanoyl)piperazine-1-carboxylate | 4.2 g, 68% | [Si](C)(C)(C(C)(C)C)OC[C@H](CCC(=O)N1CCN(CC1)C(=O)OC(C)(C)C)N(C(=O)NCC1=C(C(=CC=C1)F)Cl)C | C29H48ClFN4O5Si
